US06927221B2
1-(1-Ethylpropyl)-4,8-dimethyl-6-(2,4,6-trichlorophenyl)-1,6-dihydropyrazolo[3,4-b]pyrrolo[2,3-d]pyridine
1-(1-Ethylpropyl)-4,8-dimethyl-6-(2,4,6-trichlorophenyl)-1,2,3,6-tetrahydropyrazolo[3,4-b]pyrrolo[2,3-d]pyridine (70 mg, 0.160 mmol) was dissolved in toluene (7 mL). Manganese dioxide (700 mg) was added thereto, followed by stirring at 40° C. overnight. The reaction mixture was filtered through Celite and washed with ethyl acetate. The filtrate was evaporated, and the residue was purified by silica gel column chromatography (5% ethyl acetate/hexane), to give the title compound (48 mg, 0.110 mmol) as white crystals.

reactant | 1-(1-Ethylpropyl)-4,8-dimethyl-6-(2,4,6-trichlorophenyl)-1,2,3,6-tetrahydropyrazolo[3,4-b]pyrrolo[2,3-d]pyridine | 0.160 mmol, 70 mg | C(C)C(CC)N1CCC=2C1=C1C(=NC2C)N(N=C1C)C1=C(C=C(C=C1Cl)Cl)Cl | C21H23Cl3N4
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Manganese dioxide | 700 mg | [O-2].[O-2].[Mn+4]
product | 1-(1-Ethylpropyl)-4,8-dimethyl-6-(2,4,6-trichlorophenyl)-1,6-dihydropyrazolo[3,4-b]pyrrolo[2,3-d]pyridine | 0.110 mmol, 48 mg | C(C)C(CC)N1C=CC=2C1=C1C(=NC2C)N(N=C1C)C1=C(C=C(C=C1Cl)Cl)Cl | C21H21Cl3N4
